US07642264B2
4-(4-Chloro-phenyl)-2-pyrrol-1-yl-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine (example A.1) (0.15 g, 0.5 mmol) and commercially available pyrrole (0.067 g, 1.0 mmol) according to the general procedure IVa. Obtained as a light brown solid (0.12 g, 74%). MS (EI) 323.1 [(M)+]; mp 128.5° C.

reactant | 2-chloro-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine | 0.5 mmol, 0.15 g | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C(F)(F)F | C11H5Cl2F3N2
reactant | pyrrole | 1.0 mmol, 0.067 g | N1C=CC=C1 | C4H5N
product | 4-(4-Chloro-phenyl)-2-pyrrol-1-yl-6-trifluoromethyl-pyrimidine | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)N1C=CC=C1 | C15H9ClF3N3
